US06919377B2
To a stirred solution of 4-(4-hydroxyphenyl)cyclohexanone (1.0 g, 5.3 mmol) in a mixture of 2-propanol (40 mL) and THF (20 mL) was added N-phenylethylenediamine (0.72 g, 5.3 mmol) and 3 Å molecular sieves. After 3 hours, sodium borohydride (0.27 g, 7.3 mmol) was added, and the reaction mixture was stirred overnight. The reaction mixture was quenched with MeOH, filtered through celite, and the filtrate was concentrated under reduced pressure. The product was purified by flash chromatography (silica, 95:5 CH2Cl2:MeOH) and converted to a maleate salt. Recrystallization from MeOH/Et2O gave trans-4-[4-(2-phenylamino-ethylamino)cyclohexyl]phenol (0.31 g, 14%), as yellow solid: mp 180-184° C.; IR (KBr): 3368, 2945, 2863, 1516 cm−1; 1H NMR (500 MHz, DMSO-d6) δ 9.14 (s, 1H), 8.40 (br s, 2H), 7.15-7.00 (m, 4H), 6.70-6.55 (m, 5H), 6.02 (s, 2H), 5.65 (br s, 1H), 3.40-3.25 (m, 2H), 3.20-3.10 (m, 3H), 2.45-2.40 (m, 1H), 2.20-2.10 (m, 2H), 1.90-1.80 (m, 2H), 1.50-1.35 (m, 4H); API-MS (m/z): 311 [M+H]+; HPLC: method A, 7.38 minutes (99.1%); method B, 13.29 minutes (99.1%); Anal. Calcd for C20H26N2O.C4H4O4: C, 67.59; H, 7.09; N, 6.57. Found: C, 67.38; H, 7.01; N 6.55.

reactant | 4-(4-hydroxyphenyl)cyclohexanone | 5.3 mmol, 1.0 g | OC1=CC=C(C=C1)C1CCC(CC1)=O | C12H14O2
reactant | N-phenylethylenediamine | 5.3 mmol, 0.72 g | C1(=CC=CC=C1)NCCN | C8H12N2
reactant | sodium borohydride | 7.3 mmol, 0.27 g | [BH4-].[Na+]
solvent | 2-propanol | 40 mL | CC(C)O | C3H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | trans-4-[4-(2-phenylamino-ethylamino)cyclohexyl]phenol | 0.31 g, 14% | C1(=CC=CC=C1)NCCN[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C20H26N2O
